US08030334B2
A flask is charged with 2-[5-(1-amino-ethyl)-pyridin-3-yl]-6-chloro-1-methyl-1H-indole-3-carbonitrile (0.072 g, 0.209 mmol) and dichloromethane (3 mL). Ethanesulfonyl chloride (0.060 g, 0.525 mmol) and triethylamine (0.059 mL, 0.417 mmol) are added and the reaction is stirred at room temperature overnight. The reaction mixture is concentrated in vacuo to give a residue which is purified by silica gel flash chromatography (heptane-ethyl acetate, 1:1) to afford ethanesulfonic acid {1-[5-(6-chloro-3-cyano-1-methyl-1H-indol-2-yl)-pyridin-3-yl]-ethyl}-amide as a white solid. 1H NMR (400 MHz, MeOD) δ ppm 1.32 (t, J=7.5 Hz, 3H), 1.65 (d, J=7.1 Hz, 3H), 2.96-3.15 (m, 2H), 3.84 (s, 3H), 4.75-4.86 (m, 1H), 7.39 (dd, J=8.6, 1.8 Hz, 1H), 7.73 (d, J=8.6 Hz, 1H), 7.78 (d, J=1.5 Hz, 1H), 8.20 (t, J=2.0 Hz, 1H), 8.80 (d, J=2.0 Hz, 1H), 8.83 (d, J=2.3 Hz, 1H). HRMS (ESI) m/z 403.1005 [(M+H)+ Calcd for C19H20N4O2SCl: 403.0996].

reactant | 2-[5-(1-amino-ethyl)-pyridin-3-yl]-6-chloro-1-methyl-1H-indole-3-carbonitrile | 0.209 mmol, 0.072 g | NC(C)C=1C=C(C=NC1)C=1N(C2=CC(=CC=C2C1C#N)Cl)C | C17H15ClN4
reactant | Ethanesulfonyl chloride | 0.525 mmol, 0.060 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | triethylamine | 0.417 mmol, 0.059 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | ethanesulfonic acid {1-[5-(6-chloro-3-cyano-1-methyl-1H-indol-2-yl)-pyridin-3-yl]-ethyl}-amide | ClC1=CC=C2C(=C(N(C2=C1)C)C=1C=C(C=NC1)C(C)NS(=O)(=O)CC)C#N | C19H19ClN4O2S
